US08937176B2
7.04.01. 2-(1,4-Bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-1-(4-[1,3,5]triazin-2-yl-piperazin-1-yl)-ethanone
22 mg 1-(1,3,5-triazin-2-yl)-piperazine was added to 40 mg (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid lithium salt, 45 mg TBTU, 0.03 mL DIPEA in 0.75 mL DMF. The reaction was stirred overnight at RT. 5 mL water was added to the reaction and the mixture was stirred 1 h. The precipitate was filtered and dried to give 37 mg desired product.

reactant | 1-(1,3,5-triazin-2-yl)-piperazine | 22 mg | N1=C(N=CN=C1)N1CCNCC1 | C7H11N5
reactant | (1,4-bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-acetic acid lithium salt | 40 mg | [Li+].FC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)F)CC(=O)[O-]
reactant | TBTU | 45 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.03 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 2-(1,4-Bis-(4-fluoro-phenyl)-1H-imidazol-2-yl)-1-(4-[1,3,5]triazin-2-yl-piperazin-1-yl)-ethanone | 37 mg | FC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)F)CC(=O)N1CCN(CC1)C1=NC=NC=N1 | C24H21F2N7O
